US07812022B2
Step C (Alternative): N-{3-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide
KOH (1.0 g, 17.4 mmol) was ground to a powder and added to a rt solution of N-{3-[(2-chloro-4-pyrimidinyl)ethynyl]phenyl}-2,6-difluorobenzamide (6.4 g, 17.4 mmol), 1-aminopyridinium iodide (3.85 g, 17.4 mmol), K2CO3 (4.8 g, 34.7 mmol) and DMSO (100 mL) at rt. The reaction was stirred for 3 h and the product crystallized out of the reaction mixture. The reaction was combined with an equal volume of water and the suspension was filtered. The solids were washed with water, then triturated with diethyl ether. The resulting brown solid was dried for 24 h at 60° C. under vacuum to give 7.1 g (89%) of the crude title compound as a brown powder. MS (ESI): M+H=461.99.

reactant | KOH | 17.4 mmol, 1.0 g | [OH-].[K+]
reactant | N-{3-[(2-chloro-4-pyrimidinyl)ethynyl]phenyl}-2,6-difluorobenzamide | 17.4 mmol, 6.4 g | ClC1=NC=CC(=N1)C#CC=1C=C(C=CC1)NC(C1=C(C=CC=C1F)F)=O | C19H10ClF2N3O
reactant | 1-aminopyridinium iodide | 17.4 mmol, 3.85 g | [I-].N[N+]1=CC=CC=C1
reactant | K2CO3 | 34.7 mmol, 4.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | N-{3-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 7.1 g, 89% | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
